US08017611B2
Sodium tetrahydroborate (42.6 mg) and tert-butyl 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-3-formyl-pyrazol-1-yl]piperidine-1-carboxylate (550 mg) in methanol (10 ml) were stirred at room temperature for 1 hour. The reaction was incomplete and further sodium tetrahydroborate (42.6 mg) was added at room temperature and the reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was diluted with dichloromethane (100 ml) and washed with water (2×20 ml), dried over magnesium sulfate and concentrated to dryness. The residue was dissolved in dichloromethane (2 ml) and the solution was cooled to 0° C. and treated with trifluoroacetic acid (3 ml). The resulting solution was allowed to stir at room temperature for 1 hour and then concentrated to dryness. The residue was re-dissolved in methanolic ammonia (7N, 5 ml) and absorbed onto silica and purified by flash chromatography on silica gel eluting with 0 to 15% methanolic ammonia (7 N) in dichloromethane. The solvent was evaporated to dryness to afford [4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-1-(4-piperidyl)pyrazol-3-yl]methanol (440 mg) as a solid. The tert-butyl 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-3-formyl-pyrazol-1-yl]piperidine-1-carboxylate used as starting material was prepared as follows: 4-bromo-2H-pyrazole-3-carbaldehyde (3 g), potassium carbonate (3.32 g) and tert-butyl 4-methylsulfonyloxypiperidine-1-carboxylate (6.23 g) in acetonitrile (150 ml) were stirred at reflux overnight. The resulting precipitate was removed by filtration and the filtrate was concentrated and purified by flash chromatography on silica gel eluting with 0 to 20% ethyl acetate in petroleum ether. The solvent was evaporated to dryness to yield tert-butyl 4-(4-bromo-3-formyl-pyrazol-1-yl)piperidine-1-carboxylate (4.10 g) as a clear colourless oil which crystallised on standing. NMR Spectrum: (CDCl3) 1.48 (s, 9H), 1.92 (dd, 1H), 1.96 (dd, 1H), 2.10-2.18 (m, 2H), 2.81-2.97 (m, 2H), 4.27 (bs, 2H), 4.28-4.38 (m, 1H), 7.543 (s, 1H), 9.96 (s, 1H); Mass spectrum: M+H+ 360.

reactant | tert-butyl 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-3-formyl-pyrazol-1-yl]piperidine-1-carboxylate | NC1=C(C=C(C=N1)C=1C(=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C=O)C=1OC2=C(N1)C=CC=C2 | C26H28N6O4
reactant | 4-bromo-2H-pyrazole-3-carbaldehyde | 3 g | BrC1=C(NN=C1)C=O | C4H3BrN2O
reactant | potassium carbonate | 3.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 4-methylsulfonyloxypiperidine-1-carboxylate | 6.23 g | CS(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO5S
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | tert-butyl 4-(4-bromo-3-formyl-pyrazol-1-yl)piperidine-1-carboxylate | 4.10 g | BrC=1C(=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C=O | C14H20BrN3O3
